US04782080
A mixture of 2-acetamido-3-cyanobenzo(b)thiophene (2.2 g, 0.01 m), ethanol (25 ml), water (15 ml) and concentrated hydrochloric acid (25 ml) is heated under reflux for 12 hours. The reaction mixture is diluted with water, aged and filtered to yield 2-hydroxybenzo(b)thiophene-3-carboxamide.

reactant | 2-acetamido-3-cyanobenzo(b)thiophene | 2.2 g | C(C)(=O)NC1=C(C2=C(S1)C=CC=C2)C#N | C11H8N2OS
reactant | ethanol | 25 ml | C(C)O | C2H6O
reactant | hydrochloric acid | 25 ml | Cl | ClH
reactant | water | O | H2O
reactant | water | 15 ml | O | H2O
product | 2-hydroxybenzo(b)thiophene-3-carboxamide | OC1=C(C2=C(S1)C=CC=C2)C(=O)N | C9H7NO2S
